US04267184
1-Benzoyl-4,5-bis(4-fluorophenyl)-2-(trifluoromethylthio)pyrrole
A mixture of 2.1 g. (6 mmoles) of 4,5-bis-(4-fluorophenyl)-2-(trifluoromethylthio)pyrrole and 1.3 g. (12 mmoles) of potassium tert-butoxide in 60 ml. of toluene was heated to reflux with stirring and then cooled to room temperature under nitrogen. A solution of 1.7 g. of benzoyl chloride in 15 ml. of toluene was then added and the reaction mixture stirred overnight at room temperature. The mixture was diluted with methylene chloride, which was washed with 10% aqueous sodium bicarbonate solution, dried and evaporated. The residue was purified by chromatography on Fisher 100-200 mesh silica gel (eluted by hexane and then by mixtures of hexane/toluene), followed by recrystallization from ethanol/water to afford 1.8 g. of colorless crystals, m.p. 105.5°-106° C.

reactant | 4,5-bis-(4-fluorophenyl)-2-(trifluoromethylthio)pyrrole | 6 mmoles | FC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)F)SC(F)(F)F | C17H10F5NS
reactant | potassium tert-butoxide | 12 mmoles | CC(C)([O-])C.[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Benzoyl-4,5-bis(4-fluorophenyl)-2-(trifluoromethylthio)pyrrole | C(C1=CC=CC=C1)(=O)N1C(=CC(=C1C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)SC(F)(F)F | C24H14F5NOS
